US07049438B2
Using an analogous procedure to that described in the last paragraph of Note [22] immediately above, 7-acetoxy-4-(2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline was reacted with a saturated methanolic ammonia solution to give 4-(2,3-methylenedioxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline; NMR Spectrum: (DMSOd6) 1.8–1.95 (m, 2H), 2.1–2.2 (m, 2H), 3.52 (m, 2H), 3.8 (s, 3H), 3.9 (m, 2H), 4.95 (m, 1H), 6.7 (s, 1H), 6.75 (d, 1H), 6.85 (s, 1H), 7.6 (d, 1H), 7.88 (s, 1H), 8.4 (s, 1H), 9.65 (s, 1H), 10.6 (br s, 1H); Mass Spectrum: M+H+ 382.

reactant | 7-acetoxy-4-(2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline | C(C)(=O)OC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC2CCOCC2 | C22H21N3O6
reactant | ammonia | N | H3N
product | 4-(2,3-methylenedioxyanilino)-7-hydroxy-5-tetrahydropyran-4-yloxyquinazoline | C1OC2=C(NC3=NC=NC4=CC(=CC(=C34)OC3CCOCC3)O)C=CC=C2O1 | C20H19N3O5
